US07037909B2
(4-Fluoro-phenyl)-acetic acid hydrazide
Neat anhydrous hydrazine 20 mL was added to a slurry of (4-fluorophenyl)acetic acid methyl ester (Acros Organics USA, Morris Plains, N.J., 25.66 g, 152.5 mmol) in MeOH (120 mL) and the mixture was heated to 60° C. with reflux condenser under nitrogen for 2 hrs. Cooled to room temperature, evaporated to dryness (room temperature to 60° C., 100 Torr to 7 Torr). The solid residue was re-crystallized from 1-propanol , 100 mL (reflux to room temperature, overnight). The crystallized product was collected by filtration, washed with 1-propanol and dried on high vacuum. [1st fraction]

reactant | hydrazine | 20 mL | NN | H4N2
reactant | (4-fluorophenyl)acetic acid methyl ester | 152.5 mmol, 25.66 g | COC(CC1=CC=C(C=C1)F)=O | C9H9FO2
solvent | MeOH | 120 mL | CO | CH4O
product | (4-Fluoro-phenyl)-acetic acid hydrazide | FC1=CC=C(C=C1)CC(=O)NN | C8H9FN2O
